US07326732B2
(i) 3-(3-Amino-phenyl)-propionic acid methyl ester
3-(3-Amino-phenyl)-propionic acid (495 mg, 3 mmol) was esterified with MeOH using Method A, except that the residue was partitioned between EtOAc (10 ml) and saturated aqueous NaHCO3 (10 ml). The organic layer was dried (MgSO4), filtered and evaporated in vacuo to give the title compound.

reactant | 3-(3-Amino-phenyl)-propionic acid | 3 mmol, 495 mg | NC=1C=C(C=CC1)CCC(=O)O | C9H11NO2
reactant | MeOH | CO | CH4O
product | 3-(3-Amino-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)N)=O | C10H13NO2
